US06656938B2
A solution of tert-butyl 2-[2-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (4.60 g, 12.4 mmol) in 150 mL of 1,2-dichloroethane was heated to 80° C. and treated with 10 mL of concentrated NH4OH solution. To the rapidly stirred solution was added solid p-toluenesulfonyl chloride (2.71 g, 14.2 mmol) over a 10 min period. The reaction mixture was treated with an additional 2 mL of concentrated NH4OH solution and then sealed in a pressure vessel and heating was continued for 3 h. The reaction mixture was then cooled and treated with 100 mL of CH2Cl2. The reaction mixture was then washed with H2O, 1% Na2CO3 solution (3×) and brine. The organic portion was dried over Na2SO4 and concentrated to give 4.56 g of tert-butyl 2-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a light brown foam.

reactant | tert-butyl 2-[2-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 12.4 mmol, 4.60 g | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C=N2)CCOCCNC(OC(C)(C)C)=O | C19H24N4O4
reactant | NH4OH | 10 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 14.2 mmol, 2.71 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NH4OH | 2 mL | [NH4+].[OH-]
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | tert-butyl 2-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 4.56 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCOCCNC(OC(C)(C)C)=O | C19H25N5O3
